US08138345B2
Preparation of [4-(Acryloylmethylamino)phenyl]acetic Acid Methyl Ester
To a solution of methyl(4-methylaminophenyl)acetate (4.00 g, 22.3 mmol) and N,N-diisopropylethylamine (7.78 mL, 44.6 mmol) in DCM (20.0 mL) at 0° C. was slowly added 2-propenyl chloride (2.18 mL, 26.8 mmol). The reaction mixture was stirred at room temperature for 2 h and then saturated aqueous sodium bicarbonate (20.0 mL) was added. This mixture was extracted with DCM (10 mL) and the organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound, which was used in the next reaction without further purification.

reactant | methyl(4-methylaminophenyl)acetate | 22.3 mmol, 4.00 g | COC(CC1=CC=C(C=C1)NC)=O | C10H13NO2
reactant | N,N-diisopropylethylamine | 44.6 mmol, 7.78 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-propenyl chloride | 26.8 mmol, 2.18 mL | C(C=C)Cl | C3H5Cl
reactant | sodium bicarbonate | 20.0 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | [4-(Acryloylmethylamino)phenyl]acetic Acid Methyl Ester | COC(CC1=CC=C(C=C1)NCC(C=C)=O)=O | C13H15NO3
